US04694014
Preparation of 2-Difluoromethylthio-5-(4'-chlorophenyl)-1,3,4-thiadiazole
6.9 g of 2-mercapto-5-(4'-chlorophenyl)-1,3,4-thiadiazole and 60 ml fo dioxane are added to a solution of 2.4 g of potassium hydroxide in 10 ml of water. After the addition of 0.2 g of potassium iodide and 2 crystals of tetrabutylammonium bromide, the mixture is heated to 40° C. With stirring, a weak stream of chlorodifluoromethane is then passed through the mixture for 4 hours. The reaction mixture is then subsequently concentrated by evaporation in vacuo. The residue remaining after evaporation is taken up in methylene chloride, and the resultant solution is washed in succession with water and 1n sodium hydroxide solution. The solvent is evaporated off, affording the title compound (recrystallised from isopropanol) in the form of colourless crystals with a melting point of 74°-76° C.

reactant | 2-mercapto-5-(4'-chlorophenyl)-1,3,4-thiadiazole | 6.9 g | SC=1SC(=NN1)C1=CC=C(C=C1)Cl | C8H5ClN2S2
reactant | potassium hydroxide | 2.4 g | [OH-].[K+]
reactant | potassium iodide | 0.2 g | [I-].[K+]
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
solvent | water | 10 ml | O | H2O
catalyst | tetrabutylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-Difluoromethylthio-5-(4'-chlorophenyl)-1,3,4-thiadiazole | FC(SC=1SC(=NN1)C1=CC=C(C=C1)Cl)F | C9H5ClF2N2S2
